US08563583B2
A mixture of potassium phosphate tribasic (633 mg, 2.98 mmol), N1,N2-dimethylcyclohexane-1,2-diamine (141 mg, 0.99 mmol), copper(i) iodide (189 mg, 0.99 mmol), 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol (328 mg, 1.19 mmol) Part A and commercially available 4-(benzyloxy)pyridin-2(1H)-one (200 mg, 0.99 mmol) in dioxane (1.0 mL) was stirred in a sealed tube at 110° C. for 60 min. After removal of the solids by filtration and concentration of the filtrate, the crude product was subjected to flash chromatography (silica gel/CH2Cl2-10% MeOH/CH2Cl2 100:0 to 0:100 gradient employing LC-MS to identify fractions containing the desired product). The semi-pure product thus obtained was further purified by prep-HPLC (C18 column/Water:MeOH:TFA 90:10:0.1 to 10:90:0.1 gradient) to obtain 4-(benzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one D-1 (298 mg, 74.3% yield) as a white foam. LC/MS 396 (M+H)+, tR 0.87 min (method 5); 1H NMR (400 MHz, Chloroform-D) δ ppm 7.34-7.47 (5H, m), 718 (1H, d, J=7.78 Hz), 6.96 (1H, d, J=8.53 Hz), 6.80-6.90 (2H, m), 6.28 (1H, d, J=2.51 Hz), 6.16 (1H, dd, J=7.65, 2.64 Hz), 5.08 (2H, s), 3.85 (5H, s), 1.35 (6H, s).

reactant | potassium phosphate tribasic | 2.98 mmol, 633 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N1,N2-dimethylcyclohexane-1,2-diamine | 0.99 mmol, 141 mg | CNC1C(CCCC1)NC | C8H18N2
reactant | 1-(4-bromo-2-methoxyphenoxy)-2-methylpropan-2-ol | 1.19 mmol, 328 mg | BrC1=CC(=C(OCC(C)(O)C)C=C1)OC | C11H15BrO3
reactant | 4-(benzyloxy)pyridin-2(1H)-one | 0.99 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
catalyst | copper(i) iodide | 0.99 mmol, 189 mg | [Cu]I
product | 4-(benzyloxy)-1-(4-(2-hydroxy-2-methylpropoxy)-3-methoxyphenyl)pyridin-2(1H)-one | 298 mg, 74.3% yield | C(C1=CC=CC=C1)OC1=CC(N(C=C1)C1=CC(=C(C=C1)OCC(C)(C)O)OC)=O | C23H25NO5
